US04406829
8 g of (1R,cis) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylic acid chloride and 10 ml of benzene were added at 10° C. to a solution of 50 ml of benzene, 4 g of isopropanol and 4 g of pyridine and the reaction mixture was stirred for 8 hours. The mixture was poured into iced water and the decanted organic phase was washed with water, with aqueous sodium bicarbonate solution, with water, with N hydrochloric acid and finally with water. The solution was dried and evaporated to dryness under reduced pressure at 45° C. The residue was chromatographed over silica gel and was eluted with an 8-2 petroleum ether (b.p.=60°-80° C.)-isopropyl ether mixture to obtain the fraction with an Rf=0.55. The solution was evaporated to dryness under reduced pressure at 45° C. to obtain 5 g of isopropyl (1R,cis) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylate with a boiling point of 66°~68° C. at 0.1 mm Hg and a specific rotation of [α]D 20 =+74.5° (c=1% in chloroform).

reactant | (1R,cis) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylic acid chloride | 8 g | CC1([C@@H]([C@@H]1C=C1CCC1)C(=O)Cl)C | C11H15ClO
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | isopropanol | 4 g | C(C)(C)O | C3H8O
reactant | pyridine | 4 g | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | isopropyl (1R,cis) 2,2-dimethyl-3-cyclobutylidenemethyl-cyclopropane-1-carboxylate | 5 g | CC1([C@@H]([C@@H]1C=C1CCC1)C(=O)OC(C)C)C | C14H22O2
